US08313807B2
Synthesis of N-(2-(N,N-dimethylamino)ethyl)-4-(2-(N,N-dimethylamino)ethylimino)-2-penten-2-amine
3.48 g (0.015 moles) of N,N-Bis(trimethylsilyl)-2-(N′,N′-dimethylamino)ethylamine were mixed with 1.7 g (0.01 moles) of 4-(2-(N,N-dimethylamino)ethylamino)-3-penten-2-one. To this mixture was added 1.64 g (0.0125 moles) of pentafluoropropionic acid dropwise over 5 minutes with rapid stirring. The mixture darkened and became warm, eventually forming two immiscible layers, and was allowed to stir for 1 hour. 0.98 g (0.0125 moles) of sodium t-butoxide dissolved in 5 ml of tetrahydrofuran was then added dropwise over a five minute period. The mixture warmed and became one liquid phase, which was yellow. The solvent was then removed by vacuum distillation at room temperature, and the product then vacuum distilled out of the resulting residue as a clear liquid by heating >150° C. Yield of MeC(NCH2CH2NMe2)CHC(HNCH2CH2NMe2)Me=2.05 g (85% of theoretical).

reactant | N,N-Bis(trimethylsilyl)-2-(N′,N′-dimethylamino)ethylamine | 0.015 moles, 3.48 g | C[Si](N([Si](C)(C)C)CCN(C)C)(C)C | C10H28N2Si2
reactant | 4-(2-(N,N-dimethylamino)ethylamino)-3-penten-2-one | 0.01 moles, 1.7 g | CN(C)CCNC(=CC(C)=O)C | C9H18N2O
reactant | pentafluoropropionic acid | 0.0125 moles, 1.64 g | FC(C(C(=O)O)(F)F)(F)F | C3HF5O2
reactant | sodium t-butoxide | 0.0125 moles, 0.98 g | CC(C)([O-])C.[Na+]
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | N-(2-(N,N-dimethylamino)ethyl)-4-(2-(N,N-dimethylamino)ethylimino)-2-penten-2-amine | CN(C)CCNC(C)=CC(C)=NCCN(C)C | C13H28N4
